US05652363
3-Methoxy-4-nitropyridine-N-oxide
A solution of 3-methoxypyridine-N-oxide (24 g, 0.19 mol) and con. H2SO4 (45 ml)was carefully prepared by adding the acid slowly to the solid N-oxide using an ice bath for cooling. After solution is effected, it is rapidly stirred and fuming nitric acid (45 ml) is added over 15 min. The reaction mixture was warmed to 75° C. for 2.5 hours. The contents were poured onto ice and neutralized to pH 9 with cooling using 50% NaOH. The mixture was extracted three times with CH2Cl2, dried, (Na2SO4) and solvent evaporated under reduced pressure to produce an oil. The crude product was chromatographed on silica gel using CH2Cl2 /MeOH (99:1) as the eluent to give 17.5 g (41%) of the pure product as a crystalline solid, m.p. 125°-127° C. The structural assignment is supported by the proton NMR spectrum.

reactant | 3-methoxypyridine-N-oxide | 0.19 mol, 24 g | COC=1C=[N+](C=CC1)[O-] | C6H7NO2
reactant | H2SO4 | 45 ml | OS(=O)(=O)O | H2O4S
reactant | nitric acid | 45 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
product | 3-Methoxy-4-nitropyridine-N-oxide | 17.5 g, 41% | COC=1C=[N+](C=CC1[N+](=O)[O-])[O-] | C6H6N2O4
